US07476399B2
4-hydroxy-3-methyl-N-(1-propyl-butyl)-benzamide
Prepared in a similar manner as described in example 4 using 4-hydroxy-3-methyl benzoic acid and 4-heptylamine. MS (M+H, 250.2).

reactant | 4-hydroxy-3-methyl benzoic acid | OC1=C(C=C(C(=O)O)C=C1)C | C8H8O3
reactant | 4-heptylamine | CCCC(CCC)N | C7H17N
product | 4-hydroxy-3-methyl-N-(1-propyl-butyl)-benzamide | OC1=C(C=C(C(=O)NC(CCC)CCC)C=C1)C | C15H23NO2
